US08247415B2
Step A: 1-(3-Chlorophenyl)prop-2-en-1-ol
To a cooled solution of 3-chlorobenzaldehyde (22.5 g, 160 mmol) in 100 mL anhydrous THF under inert nitrogen atmosphere was added slowly via syringe a 1.6 M solution of vinyl magnesium chloride in THF (100 mL, 160 mmol) and the solution stirred for three h allowing to warm to room temperature. The reaction was quenched with saturated solution of ammonium chloride and the organic layer was separated, extracted with ethyl acetate (2×200 mL), and organic layers were combined, dried over magnesium sulfate, filtered and concentrated under vacuum. Purification by Horizon MPLC with a 40M+ silica gel column using a gradient eluent of 0-40% ethyl acetate in hexane afforded the title compound (22.4 g, 44%). m/z (ES) 168, 170 (M, M+2)+, 190, 192 (MNa, MNa+2)+. 1HNMR (500 MHz, CDCl3) δ: 7.38 (s, 1H), 7.35-7.22 (m, 3H), 5.90 (ddd, J=7.3, 10.0, 17.4 Hz, 1H), 5.38 (d, J=17.5 Hz, 1H), 5.18 (d, J=7.2 Hz, 1H), 5.15 (d, J=10.1 Hz, 1H), 0.96 (s, 9H), 0.18 (s, 3H), 0.08 (s, 3H).

reactant | 3-chlorobenzaldehyde | 160 mmol, 22.5 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 160 mmol, 100 mL | C1CCOC1 | C4H8O
product | 1-(3-Chlorophenyl)prop-2-en-1-ol | 22.4 g, 44% | ClC=1C=C(C=CC1)C(C=C)O | C9H9ClO
